US06569361B1
1.7. 5,10-bis(2-Hydroxypropyl)-5,10-dihydrophenazine
40 g (0.22 mol) of phenazine are dissolved in 500 ml of anhydrous 1,2-diethoxyethane at 80° C. under an argon atmosphere. 14 g of sodium are added. The reaction mixture is stirred vigorously under reflux at 120° C. for 24 hours and cooled to room temperature. A solution of 39 g (0.66 mol) of 1,2-propylene oxide in 50 ml of 1,2-diethoxyethane is poured into the resultant 5,10-disodium 5,10-dihydrophenazine suspension. After the reaction mixture has been stirred at room temperature for 1 hour and at 50° C. for 2 hours, the precipitate is removed by filtration. All the anhydrous 1,2-diethoxyethane is distilled off on a rotary evaporator and used for the further synthesis. The solid residue, together with filtered-off precipitate, is mixed with 500 ml of methanol, and the mixture is stirred for 30 minutes. The solution is then evaporated on a rotary evaporator and transferred into a separating funnel, chloroform is added, and the mixture is washed a number of times with water and dried using magnesium sulphate. After the solvent has been distilled off, the product is purified by chromatography (silica gel column; cyclohexane/dioxane=1/1) and recrystallized from 150 ml of an acetone/water (2/1) mixture. The yield of the pale-green crystals is 22.5 g.

reactant | phenazine | 0.22 mol, 40 g | C1=CC=CC2=NC3=CC=CC=C3N=C12 | C12H8N2
reactant | sodium | 14 g | [Na] | Na
reactant | 1,2-propylene oxide | 0.66 mol, 39 g | C1C(C)O1 | C3H6O
reactant | methanol | 500 ml | CO | CH4O
reactant | 1,2-diethoxyethane | 500 ml | C(C)OCCOCC | C6H14O2
reactant | 1,2-diethoxyethane | 50 ml | C(C)OCCOCC | C6H14O2
product | 5,10-bis(2-Hydroxypropyl)-5,10-dihydrophenazine | OC(CN1C=2C=CC=CC2N(C2=CC=CC=C12)CC(C)O)C | C18H22N2O2
